US07572792B2
tert-butyl {[3-morpholin-4-yl-1-(propylsulfonyl)azetidin-3-yl]methyl}carbamate (0.98 g, 2.6 mmol) was dissolved in dichloromethane (10 ml) and trifluoroacetic acid (2 eq) was added. The reaction was stirred at room temperature overnight. The mixture was evaporated to dryness and the residue treated with saturated aqueous sodium carbonate. The product was extracted into dichloromethane. The organic phase was washed with brine, dried over anhydrous magnesium sulfate and evaporated to give {[3-morpholin-4-yl-1-(propylsulfonyl)azetidin-3-yl]methyl}amine which was used without further purification. 2,4-dichlorobenzoyl chloride (0.14 ml, 1.0 mmol) was added to {[3-morpholin-4-yl-1-(propylsulfonyl)azetidin-3-yl]methyl}amine in dichloromethane (2 ml) and triethylamine (0.22 ml, 1.6 mmol) at 0° C. The reaction was stirred at 0° C. for 15 mins, before warming to room temperature. After 30 mins, lc-ms showed complete consumption of starting material. The reaction was quenched and the resulting mixture was partitioned between dichloromethane and water. The organic phase was washed with brine, dried over anhydrous magnesium sulfate and evaporated to dryness. Purification by preparative tlc led to 2,4-dichloro-N-{[3-morpholin-4-yl-1-(propylsulfonyl)azetidin-3-yl]methyl}benzamide as an oil (15 mg, 4%). This was dissolved in hot ethanol (1 ml) and oxalic acid (2 eq) in ethanol (minimum amount) was added. The ethanol was evaporated and the residue triturated with ether to give the oxalate salt of 2,4-dichloro-N-{[3-morpholin-4-yl-1-(propylsulfonyl)azetidin-3-yl]methyl}benzamide as a white solid (15 mg, 4%). Analytical LCMS: single peak (214 nm), 4.35 min. 1H NMR (400 MHz, DMSO): δ 8.70 (t, J=6.3 Hz, 1 H); 7.71 (d, J=2.0 Hz, 1 H); 7.54-7.46 (m, 2 H); 3.81-3.69 (m, 4 H); 3.59 (d, J=6.3 Hz, 6 H); 3.10-3.04 (m, 2 H); 2.56 (t, J=7.4 Hz, 4 H); 1.74-1.66 (m, 2 H); 0.97 (dd, J=7.4, 7.4 Hz, 3 H).

reactant | tert-butyl {[3-morpholin-4-yl-1-(propylsulfonyl)azetidin-3-yl]methyl}carbamate | 2.6 mmol, 0.98 g | N1(CCOCC1)C1(CN(C1)S(=O)(=O)CCC)CNC(OC(C)(C)C)=O | C16H31N3O5S
reactant | trifluoroacetic acid | 2 eq | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | {[3-morpholin-4-yl-1-(propylsulfonyl)azetidin-3-yl]methyl}amine | N1(CCOCC1)C1(CN(C1)S(=O)(=O)CCC)CN | C11H23N3O3S
